US05760032
3-Methyl-4-oxo-thiazolidine-2-thione (403 g) and ethyl orthoformate (1370 ml) were added to acetic anhydride (775 ml), and the mixture was refluxed for 6 hours. The mixture was allowed to stand, and the resulting crystals were collected by filtration and washed with diisopropyl ether to give 342 g of 5-ethoxymethylene-3-methyl-4-oxo-thiazolidine-2-thione.

reactant | 3-Methyl-4-oxo-thiazolidine-2-thione | 403 g | CN1C(SCC1=O)=S | C4H5NOS2
reactant | acetic anhydride | 775 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl orthoformate | 1370 ml | C(OCC)([O-])[O-]
product | 5-ethoxymethylene-3-methyl-4-oxo-thiazolidine-2-thione | 342 g | C(C)OC=C1C(N(C(S1)=S)C)=O | C7H9NO2S2
